US07229943B2
Preparation of N,N-bis(1H-benzimidazol-2-ylmethyl)-N-benzylamine (L-2)
A mixture of 4.00 g (17.9 mmol) N-benzyliminodiacetic acid and 3.86 g (35.8 mmol) o-phenylene diamine in 30 ml ethylene glycol was stirred at 190° C. for 4 hours. The water produced during was distilled off continuously. At the end of the reaction, the reaction mixture was allowed to cool down to room temperature and then poured in 150 ml water. The obtained slurry was triturated for 30 min, filtered, washed with water (3×30 ml) and dried at 60° C. under reduced pressure for 48 hours. Yield 4.94 g (75.0%). 1H NMR (250 MHz, DMSO-d6), δ 3.72 (s, 2H), 3.92 (s, 4H), 7.13–7.57 (m, 13H), 12.37 (Br. s, 2H). +CI MS (m/z): [368]. (+CI-MS is Positive Chemical Ionisation Mass Spectroscopy).

reactant | N-benzyliminodiacetic acid | 17.9 mmol, 4.00 g | C(C1=CC=CC=C1)N(CC(=O)O)CC(=O)O | C11H13NO4
reactant | o-phenylene diamine | 35.8 mmol, 3.86 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
solvent | water | 150 ml | O | H2O
product | N,N-bis(1H-benzimidazol-2-ylmethyl)-N-benzylamine | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=CC=C2)CC2=NC1=C(N2)C=CC=C1 | C23H21N5
